US07317125B2
Preparation of benzoic acid N′-[2-(2-bromo-phenylsulfanyl)-acetyl]-N′-isopropyl-hydrazide
A solution of (2-bromo-phenylsulfanyl)-acetic acid (694 mg, 2.81 mmol) and benzoic acid N′-isopropyl-hydrazide (500 mg, 2.81 mmol) in DMF (10 mL) was treated with triethylamine (1.17 ml, 8.43 mmol), HOBT (455 mg, 3.37 mmol) and EDCI (645 mg, 3.37 mmol) at room temperature overnight. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was successively washed with 1N HCl, aqueous saturated sodium bicarbonate, and brine, then dried over sodium sulfate, filtered and concentrated. Pure product was obtained by crystallization from ethyl acetate (611 mg, 54%).

reactant | (2-bromo-phenylsulfanyl)-acetic acid | 2.81 mmol, 694 mg | BrC1=C(C=CC=C1)SCC(=O)O | C8H7BrO2S
reactant | benzoic acid N′-isopropyl-hydrazide | 2.81 mmol, 500 mg | C(C)(C)NNC(C1=CC=CC=C1)=O | C10H14N2O
reactant | triethylamine | 8.43 mmol, 1.17 ml | C(C)N(CC)CC | C6H15N
reactant | HOBT | 3.37 mmol, 455 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 3.37 mmol, 645 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | benzoic acid N′-[2-(2-bromo-phenylsulfanyl)-acetyl]-N′-isopropyl-hydrazide | BrC1=C(C=CC=C1)SCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C18H19BrN2O2S
